US06437139B1
2-carboxy-4-chloro-3,5-lutidine (1 eq.) was suspended in dry dimethylformamide and BH3.THF solution (1M in tetrahydrofuran, 3.5 eq.) was added. The mixture was heated to 60ℑ C. and stirred under a nitrogen atmosphere until completion (1.5 hours). The mixture was cooled in an ice bath and THF/H2O (1:1) mixture (10 volumes) was added slowly. The aqueous layer was saturated with sodium chloride and the tetrahydrofuran layer was separated. The aqueous layer was extracted with ether. The combined organic extracts were dried over sodium sulfate, filtered and the solvent was evaporated under vacuum. The 4-Chloro-2-hydroxymethyl-3,5-Lutidine product was obtained in 51% yield.

reactant | 2-carboxy-4-chloro-3,5-lutidine | 1 eq. | C(=O)(O)C1=NC=C(C(=C1C)Cl)C | C8H8ClNO2
reactant | BH3.THF | 1M, 3.5 eq. | B.C1CCOC1
reactant | THF H2O | C1CCOC1.O
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Chloro-2-hydroxymethyl-3,5-Lutidine | 51% yield | ClC1=C(C(=NC=C1C)CO)C | C8H10ClNO
